US07981903B2
1-chloro-2,5-bis(methyloxy)-4-nitrobenzene (3.25 g, 15 mmol, TCl America), isopropylpiperizine (3.84 g, 30 mmol, Oakwood Products), cesium carbonate (9.8 g, 30 mmol), Pd2dba3 (1.37 g, 1.5 mmol), and XANTPHOS (1.3 g, 2.25 mmol) were added to degassed dioxane (80 mL) and heated to 100° C. under a water cooled reflux condenser for 12 hours. The dioxane was removed under reduced pressure and the solids were partitioned between methylene chloride (500 mL) and water (500 mL). The organic layer was dried over sodium sulfate, taken to a residue under reduced pressure, and purified by chromatography on SiO2to give 1-[2,5-bis(methyloxy)-4-nitrophenyl]-4-(1-methylethyl)piperazine as a yellow solid (3.5 g, 11.3 mmol, 76% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.09 (d, J=6.60 Hz, 6 H), 2.69-2.73 (m, 4 H), 2.75 (d, J=6.60 Hz, 1 H), 3.23-3.32 (m, 4 H), 3.88 (s, 3 H), 3.94 (s, 3 H), 6.48 (s, 1 H), 7.55 (s, 1 H).

reactant | 1-chloro-2,5-bis(methyloxy)-4-nitrobenzene | 15 mmol, 3.25 g | ClC1=C(C=C(C(=C1)OC)[N+](=O)[O-])OC | C8H8ClNO4
reactant | isopropylpiperizine | 30 mmol, 3.84 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | cesium carbonate | 30 mmol, 9.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | XANTPHOS | 2.25 mmol, 1.3 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2dba3 | 1.5 mmol, 1.37 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[2,5-bis(methyloxy)-4-nitrophenyl]-4-(1-methylethyl)piperazine | 11.3 mmol, 3.5 g, 76% yield | COC1=C(C=C(C(=C1)[N+](=O)[O-])OC)N1CCN(CC1)C(C)C | C15H23N3O4
